US06313311B1
b) 3-[1-(1H-Imidazol-4-yl)-propyl]-indan-5-ol
A stirred mixture of 4-[1-(6-methoxyindan-1-yl)-propyl]-1H-imidazole (174 mg) and 48% hydrobromic acid (9 ml) is heated under reflux for 50 minutes. The cooled reaction mixture is poured into water and is made basic with ammonium hydroxide solution. The product is extracted into ethyl acetate which is washed with water, dried with sodium sulfate and evaporated to dryness. The crude product is purified by flash chromatography using methylene chloride-methanol as eluent. The product is a mixture of two diastereomers (1:1).

reactant | 4-[1-(6-methoxyindan-1-yl)-propyl]-1H-imidazole | 174 mg | COC1=CC=C2CCC(C2=C1)C(CC)C=1N=CNC1 | C16H20N2O
reactant | hydrobromic acid | 9 ml | Br | BrH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 3-[1-(1H-Imidazol-4-yl)-propyl]-indan-5-ol | N1C=NC(=C1)C(CC)C1CCC2=CC=C(C=C12)O | C15H18N2O
